US06482829B2
To a solution sodium ethoxide (prepared by slow addition of 22 g, 0.96 mol Na to dry 800 mL ethanol) was added benzyl cyanide (113 g, 1.05 mol) and N-benzyl-4-piperidone (90 g, 0.48 mol) at room temperature. The reaction mixture was stirred at 85° C. for 3 h and the solvent was evaporated. The residue was poured into a mixture of ice (1 kg) and concentrated hydrochloric acid (200 mL). The pH was then adjusted to 9 addition of solid sodium hydroxide and the mixture was extracted three times with ethyl acetate (500 mL each). Organic phases were pooled and dried with MgSO4. The solvent was evaporated and chromatography on silica gel (hexane, ethyl acetate, triethyl amine 80:20:1) gave (1-benzyl-piperidin-4-ylidene)-phenyl-acetonitrile as yellow crystalls (135 g, 97%).

reactant | sodium ethoxide | 0.96 mol, 800 mL, 22 g | [O-]CC.[Na+]
reactant | benzyl cyanide | 1.05 mol, 113 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | N-benzyl-4-piperidone | 0.48 mol, 90 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | (1-benzyl-piperidin-4-ylidene)-phenyl-acetonitrile | C(C1=CC=CC=C1)N1CCC(CC1)=C(C#N)C1=CC=CC=C1 | C20H20N2
